US09056885B2
8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine
To a solution of 8-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one (2 g) in THF (100 mL), lithium aluminum hydride (0.79 g) was added, and the reaction heated to reflux. After stirring for 1 hour, the heat was removed. Water (6 mL) was added followed by NaOH (10%, 15 mL), the flocculated solids removed by filtration, and the eluent concentrated to provide the title compound (1.9 g) as a pale brown oil: 1H NMR (DMSO-d6) δ 6.88 (d, 1H); 6.37 (d, 1H), 6.22 (dd, 1H), 5.14 (s, 1H), 3.62 (s, 3H), 2.90-2.85 (m, 2H), 2.57-2.53 (m, 2H), 1.67-1.59 (m, 2H), 1.52-1.45 (m, 2H).

reactant | 8-methoxy-4,5-dihydro-1H-benzo[b]azepin-2(3H)-one | 2 g | COC=1C=CC2=C(NC(CCC2)=O)C1 | C11H13NO2
reactant | lithium aluminum hydride | 0.79 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 1.9 g | COC=1C=CC2=C(NCCCC2)C1 | C11H15NO
